US08283353B2
4′-[(4-{1-[4-(benzyloxy)phenyl]piperidin-4-yl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
A mixture of 4′-[(5-oxo-4-piperidin-4-yl-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (452 mg), 4-benzyloxyphenylboric acid (456 mg), copper(II) acetate (276 mg), molecular sieves 4A (1.50 g), triethylamine (506 mg), pyridine (396 mg) and tetrahydrofuran (10 mL) was stirred at room temperature for 2 days. Ethyl acetate was added to the reaction mixture, and the mixture was filtered through Celite-basic silica gel. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=75/25→60/40 (volume ratio)] to give the title compound as a colorless amorphous compound (364 mg, 57%).

reactant | 4′-[(5-oxo-4-piperidin-4-yl-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 452 mg | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCNCC2 | C27H28N6O
reactant | 4-benzyloxyphenylboric acid | 456 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OB(O)O | C13H13BO4
reactant | triethylamine | 506 mg | C(C)N(CC)CC | C6H15N
reactant | pyridine | 396 mg | N1=CC=CC=C1 | C5H5N
catalyst | copper(II) acetate | 276 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4′-[(4-{1-[4-(benzyloxy)phenyl]piperidin-4-yl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C40H38N6O2
